US06187774B1
By the same reaction and treatment as in Example 48 using cyclohexanone oxime and ethyl 4-(4-(4-methylphenyl)piperazin-1-yl)-n-butyrate, 3-(3-(4-(4-methylphenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydrobenzo[c]isoxazole is obtained.

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | ethyl 4-(4-(4-methylphenyl)piperazin-1-yl)-n-butyrate | CC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)OCC | C17H26N2O2
product | 3-(3-(4-(4-methylphenyl)piperazin-1-yl)propyl)-4,5,6,7-tetrahydrobenzo[c]isoxazole | CC1=CC=C(C=C1)N1CCN(CC1)CCCC1=C2C(=NO1)CCCC2 | C21H29N3O
